US07767672B2
N-(4-(4-(5-methylthiazol-2-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide
A suspension of N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)cyclopropane-carboxamide (5.0 g, 14.7 mmol), amino-5-methylthiazole (1.85 g, 16.2 mmol), tris(dibenzylideneacetone)dipalladium (0.673 g, 0.74 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-xanthene (0.636 g, 1.10 mmol) and sodium carbonate (2.18 g, 20.58 mmol) in dioxane (120 ml) was heated at 100° C. for 2 h. The reaction mixture was then allowed to cool to room temperature before the tan precipitate was collected by filtration, washed with ethyl acetate (50 ml) water (3×30 ml) and then diethyl ether (50 ml) and dried to give title compound as a tan solid (4.32 g, 70%). 1H NMR (DMSO) 0.81 (4H, d), 1.83 (1H, m), 2.09 (3H, s), 6.35 (1H, br s), 6.88 (1H, s), 7.53 (2H, d), 7.74 (2H, d), 10.48 (1H, s). MS(ES+): 418.

reactant | N-(4-(4,6-dichloropyrimidin-2-ylthio)phenyl)cyclopropane-carboxamide | 14.7 mmol, 5.0 g | ClC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C14H11Cl2N3OS
reactant | amino-5-methylthiazole | 16.2 mmol, 1.85 g | NC=1SC(=CN1)C | C4H6N2S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-xanthene | 1.10 mmol, 0.636 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium carbonate | 20.58 mmol, 2.18 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.74 mmol, 0.673 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(4-(5-methylthiazol-2-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 4.32 g, 70% | CC1=CN=C(S1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C18H16ClN5OS2
